US06426345B1
To a solution of 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (41 mg) in dichloromethane (2 ml) was added oxalyl chloride (0.02 ml) and 1 drop of N,N-dimethylformamide. After stirring at room temperature for 15 minutes, ammonia solution (28%, 1 ml) was added to the mixture and stirred at room temperature for 15 minutes. The mixture was poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give 2-benzyl-4-(3-carbamoylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (139 mg).

reactant | 2-benzyl-4-(3-carboxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 41 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)O)N=CC=C2 | C21H15N3O3
reactant | oxalyl chloride | 0.02 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | 1 ml | N | H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-4-(3-carbamoylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 139 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(N)=O)N=CC=C2 | C21H16N4O2
